US07700786B2
Potassium carbonate (0.75 g, 5.4 mmol) and methyl isothiocyanate (0.39 g, 5.4 mmol) were added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (1.00 g, 3.6 mmol) in DMF (10 ml), and the mixture was stirred at room temperature for 8 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carbothioamide (0.35 g, yield: 37.7%) mp: 63-65° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.87 (d, J=0.6 Hz, 3H), 3.21 (d, J=4.9 Hz, 3H), 6.14 (q, J=0.6 Hz, 1H), 8.02 (d, J=2.1 Hz, 1H), 8.36 (m, 1H), 8.80-9.05 (m, 1H).

reactant | Potassium carbonate | 5.4 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isothiocyanate | 5.4 mmol, 0.39 g | CN=C=S | C2H3NS
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 3.6 mmol, 1.00 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carbothioamide | 0.35 g, yield: 37.7% | CNC(=S)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C12H10ClF3N4OS
